US06566362B2
A suspension of 2 g of ethyl 8,9-difluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate and 3.23 cm3 of 3,3-dimethylpiperidine in 40 cm3 of dimethyl sulphoxide was heated at a temperature in the region of 80° C. for 72 hours. After cooling to about 200° C., 200 cm3 of water was added to the reaction mixture. The precipitate obtained was dewatered and washed with 25 cm3 of water. The solid was taken up in 100 cm3 of dichloromethane, the residual water was decanted off; the organic solution was dried over magnesium sulphate and concentrated under reduced pressure (5 kPa) at about 40° C. 2.67 g of a mixture containing ethyl 9-(3,3-dimethylpiperidin-1-yl)-8-fluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate and ethyl 8-(3,3-dimethylpiperidin-1-yl)-9-fluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate was obtained. This mixture was purified by flash chromatography on silica gel (particle size 20-45 μm, diameter 10 cm, height 60 cm) at a pressure of 80 kPa, eluted with a mixture containing 99% dichloromethane and 1% methanol, and 70 cm3 fractions were collected. After concentration of fractions 16 to 39 under reduced pressure (5 kPa) at about 50° C., 0.85 g of ethyl 9-(3,3-dimethylpiperidin-1-yl)-8-fluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate was obtained in the form of a yellow solid, which melted at around 218-220° C.

reactant | ethyl 8,9-difluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 2 g | FC1=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C=C1F | C16H12F2N2O3
reactant | 3,3-dimethylpiperidine | 3.23 cm3 | CC1(CNCCC1)C | C7H15N
reactant | water | 200 cm3 | O | H2O
solvent | dimethyl sulphoxide | 40 cm3 | CS(=O)C | C2H6OS
product | ethyl 8-(3,3-dimethylpiperidin-1-yl)-9-fluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | CC1(CN(CCC1)C1=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C=C1F)C | C23H26FN3O3
